US06197798B1
The alcohol, (1-hydroxy-indan-2-yl)-carbamic acid methyl ester (1S-trans) prepared from L-phenylalanine (18.7 g, 0.09 mol) (J. Org. Chem. 1983, 48, 2675-2679) is suspended in methylene chloride and cooled to 0° C. Pyridine (10.7 g, 0.135 mol) is added followed by acetyl chloride (10.5 g, 0.135 mol). The mixture is stirred for 1 h. and then washed with sodium bicarbonate, 1N HCl and saturated sodium chloride. The organic layer is dried over Na2SO4, filtered and evaporated under reduced pressure to give (1-acetyloxy-indan-2-yl)-carbamic acid methyl ester (1S-trans).

reactant | (1-hydroxy-indan-2-yl)-carbamic acid methyl ester | COC(NC1C(C2=CC=CC=C2C1)O)=O | C11H13NO3
reactant | L-phenylalanine | 0.09 mol, 18.7 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Pyridine | 0.135 mol, 10.7 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.135 mol, 10.5 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1-acetyloxy-indan-2-yl)-carbamic acid methyl ester | COC(NC1C(C2=CC=CC=C2C1)OC(C)=O)=O | C13H15NO4
